US08686002B2
3-(2-Chloro-6-methoxybenzyl)-1,6-naphthyridin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 4-aminonicotinaldehyde and 3-(2-chloro-6-methoxyphenyl)propionitrile.

reactant | 4-aminonicotinaldehyde | NC1=CC=NC=C1C=O | C6H6N2O
reactant | 3-(2-chloro-6-methoxyphenyl)propionitrile | ClC1=C(C(=CC=C1)OC)CCC#N | C10H10ClNO
product | 3-(2-Chloro-6-methoxybenzyl)-1,6-naphthyridin-2-amine | ClC1=C(CC=2C(=NC3=CC=NC=C3C2)N)C(=CC=C1)OC | C16H14ClN3O
